US07648987B2
A solution of 8-amino-1-(1H-indol-2-yl)imidazo[1,5-a]pyrazine-3(2H)-thione hydrobromide (10 mg, 0.04 mmol) and benzyl bromide (5.1 uL, 0.043 mmol) in DMF (1.0 mL) was charged with N,N-diisopropylethylamine (18 uL, 0.11 mmol) and stirred at rt for 2 h. The solvent was then removed in vacuo and the crude product was dissolved in purified by preparative TLC eluting with 3% NH3/MeOH in DCM to afford 2.5 mg 3-(benzylthio)-1-(1H-indol-2-yl)imidazo[1,5-a]pyrazin-8-amine. 1H NMR (400 MHz, MeOD) δ ppm 4.25 (s, 2H), 6.76 (s, 1H), 6.92 (d, J=5.05 Hz, 1H), 7.06-7.14 (m, 3H), 7.14-7.23 (m, 4H), 7.28 (d, J=5.05 Hz, 1H), 7.48(d, J=8.08 Hz, 1H), 7.63 (d, J=8.08 Hz, 1H); MS (ES+): m/z 373.35 [MH+].

reactant | 8-amino-1-(1H-indol-2-yl)imidazo[1,5-a]pyrazine-3(2H)-thione hydrobromide | 0.04 mmol, 10 mg | Br.NC=1C=2N(C=CN1)C(NC2C=2NC1=CC=CC=C1C2)=S
reactant | benzyl bromide | 0.043 mmol, 5.1 uL | C(C1=CC=CC=C1)Br | C7H7Br
reactant | N,N-diisopropylethylamine | 0.11 mmol, 18 uL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | DMF | 1.0 mL | CN(C)C=O | C3H7NO
product | 3-(benzylthio)-1-(1H-indol-2-yl)imidazo[1,5-a]pyrazin-8-amine | 2.5 mg | C(C1=CC=CC=C1)SC1=NC(=C2N1C=CN=C2N)C=2NC1=CC=CC=C1C2 | C21H17N5S
